US04666916
A solution of 21.1 g 3-[(2-methyl-4-methoxyphenyl)thio]propanoic acid and 160 g polyphosphoric ester in 150 ml CHCl3 is refluxed for 45 min. To the cooled reaction mixture is added 200 ml 0.5 N NaOH. The organic phase is separated and the aqueous phase is extracted with 100 ml CHCl3. The combined organic extracts are dried over Na2SO4, filtered, concentrated under reduced pressure and flash chromatrographed with ethyl acetate/hexane (8:92) to yield 6-methoxy-8-methyl-2H-[1]benzothiopyran-4-one.

reactant | 3-[(2-methyl-4-methoxyphenyl)thio]propanoic acid | 21.1 g | CC1=C(C=CC(=C1)OC)SCCC(=O)O | C11H14O3S
reactant | NaOH | 0.5 N, 200 ml | [OH-].[Na+]
solvent | CHCl3 | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-methoxy-8-methyl-2H-[1]benzothiopyran-4-one | COC=1C=C(C2=C(C(CCS2)=O)C1)C | C11H12O2S
